US07163937B2
A solution of (1R,2S,5R)-methyl 2-((S)-3-(benzyloxycarbonylamino)-2-oxopyrrolidin-1-yl)-5-(tert-butoxycarbonylamino)-cyclohexanecarboxylate in CH2Cl2 (10 mL) was treated with TFA (15 mL) and stirred at room temperature for 2 h. The reaction mixture was concentrated in vacuo and the residue dissolved in CH2Cl2 and washed with NaHCO3(aq), brine, and dried over MgSO4. The solution was filtered and concentrated in vacuo to give 0.75 g (59%) of (1R,2S,5R)-methyl 5-amino-2-((S)-3-(benzyloxycarbonylamino)-2-oxopyrrolidin-1-yl)cyclohexanecarboxylate as a white solid. MS found: (M+H)+=390.3.

reactant | (1R,2S,5R)-methyl 2-((S)-3-(benzyloxycarbonylamino)-2-oxopyrrolidin-1-yl)-5-(tert-butoxycarbonylamino)-cyclohexanecarboxylate | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)NC(=O)OC(C)(C)C)C(=O)OC)=O | C25H35N3O7
reactant | TFA | 15 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (1R,2S,5R)-methyl 5-amino-2-((S)-3-(benzyloxycarbonylamino)-2-oxopyrrolidin-1-yl)cyclohexanecarboxylate | 0.75 g, 59% | N[C@@H]1CC[C@@H]([C@@H](C1)C(=O)OC)N1C([C@H](CC1)NC(=O)OCC1=CC=CC=C1)=O | C20H27N3O5
